Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Iodine Containing Agents Classifier / Uroxatral / Simvastatin / 
Zetia / Coreg / Celexa / Oxazepam / Lipitor / Lisinopril / 
finasteride
 
Attending: ___.
 
Chief Complaint:
progressive dysphagia
 
Major Surgical or Invasive Procedure:
C2-C5 OSTEOPHYTECTOMY & NON INSTRUMENTED FUSION 

 
History of Present Illness:
___ is a pleasant gentleman who presented with progressive 
difficulty in swallowing and pill dysphagia caused by large 
anterior osteophytes that were present from C2-C5 essentially 
almost the same size as his vertebral body in the 
anterior-posterior dimension. Due to presence of this, he had 
significant dysphagia. He had undergone significant and 
prolonged investigative approach to determine the cause for his 
dysphagia and it was thought that the osteophytes were the 
reason behind his dysphagia. Due to this, a decision for 
excision of those osteophytes and non-instrumented fusion was 
taken.

 
Past Medical History:
PMH: HTN, CAD (MI x 2 in ___ and ___) spinal stenosis, GERD, BPH, 
anxiety, OSA not on CPAP, hx of alcohol abuse.

PSHx: lap chole (___) b/l rotator cuff repair, R knee 
arthroscopy,  CABG x2 (___), R cataract surgery (___) 
femur ORIF (___) removal of hardware (___) left TKA by DKA 
(___)
 
Social History:
___
Family History:
non contributory 
 
Physical Exam:
PE: 
VS ___ 0438 Temp: 97.4 PO BP: 161/77 HR: 61 RR: 18 O2 sat:
97% O2 delivery: Ra 

NAD, A&Ox4
nl resp effort
RRR

dressing c/d/i
  
Sensory:
UE 
       C5         C6           C7        C8           T1
     (lat arm)  (thumb)     (mid fing) (sm finger)  (med arm)
R     SILT       SILT        SILT        SILT         SILT
L     SILT       SILT        SILT        SILT         SILT

___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
UE   Dlt(C5) Bic(C6) WE(C6) Tri(C7) WF(C7) FF(C8)FinAbd(T1)
R      5       5       5      5       5      5     5
L      5       5       5      5       5      5     5

___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

 
Pertinent Results:
___ 08:55AM BLOOD WBC-11.6* RBC-4.54* Hgb-12.4* Hct-39.0* 
MCV-86 MCH-27.3 MCHC-31.8* RDW-14.0 RDWSD-44.1 Plt ___
___ 06:09AM BLOOD WBC-12.5* RBC-4.63 Hgb-13.1* Hct-38.9* 
MCV-84 MCH-28.3 MCHC-33.7 RDW-13.9 RDWSD-42.5 Plt ___
___ 08:55AM BLOOD Plt ___
___ 06:09AM BLOOD Plt ___
___ 08:55AM BLOOD Glucose-173* UreaN-16 Creat-1.1 Na-139 
K-4.1 Cl-100 HCO3-24 AnGap-15
___ 06:09AM BLOOD Glucose-180* UreaN-14 Creat-1.1 Na-136 
K-4.5 Cl-97 HCO3-27 AnGap-12
___ 08:55AM BLOOD Calcium-9.1 Phos-2.6* Mg-2.1
___ 06:09AM BLOOD Calcium-8.9 Phos-3.5 Mg-1.4*
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. He was mobilizing 
independently. On the day of discharge the patient was afebrile 
with stable vital signs, comfortable on oral pain control and 
tolerating a thin liquid/pureed diet.

Post op course was complicated by dysphagia and excessive oral 
secretions. Speech and Swallow service was consulted to help 
with management of this. He remained NPO diet until ___. Video 
evaluation on ___ revealed silent aspiration of solif foods 
however he tolerated thin liquids and pureed foods. He was 
transitioned to this diet on ___ and tolerated well overnight. 
He is cleared for discharge to home on thin liquid and pureed 
diet with outpatient follow up in 1 week for c-spine xray to 
evaluate improvement in post op soft tissue swelling and follow 
up with speech and swallow service for video evaluation to 
advance his diet.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. alirocumab 150 mg/mL subcutaneous EVERY 4  WEEKS 
2. amLODIPine 10 mg PO DAILY 
3. Losartan Potassium 100 mg PO QHS 
4. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. SITagliptin 100 mg oral DAILY 
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN angina 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Moderate 
may take over the counter  
2.  alirocumab 150 mg/mL subcutaneous EVERY 4  WEEKS  
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Indomethacin 25 mg PO TID  
6.  Losartan Potassium 100 mg PO QHS  
7.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
8.  Metoprolol Succinate XL 12.5 mg PO DAILY  
9.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN angina  
10.  Omeprazole 20 mg PO DAILY  
11.  SITagliptin 100 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Cervical spondylosis.
2.  Cervical degenerative disk disease.
3.  Diffuse idiopathic skeletal hyperostosis.
4.  C2-C5 large anterior osteophyte formation with severe
dysphagia.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ACDF:

You have undergone the following operation:Anterior Cervical 
Decompression and Fusion.

Immediately after the operation:

                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit in a car or chair for more than~45 minutes without 
getting up and walking around. 

                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.  

                Swallowing:Difficulty swallowing is not 
uncommon after this type of surgery.This should resolve over 
time.Please continue your pureed and think liquid diet and do 
not advance until further evaluated by speech and swallow 
service. 

                Cervical Collar / Neck Brace:If you have been 
given a soft collar for comfort, you may remove the collar to 
take a shower or eat.Limit your motion of your neck while the 
collar is off.You should wear the collar when walking,especially 
in public.

                Wound Care:Open to air. Please call the office 
if you develop any incisional drainage or swelling at the 
surgical site. 

                You should resume taking your normal home 
medications.

                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so plan ahead.You can either have them 
mailed to your home or pick them up at the clinic located on 
___.We are not allowed to call in narcotic 
(oxycontin,oxycodone,percocet) prescriptions to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.
                At the 2-week visit we will check your 
incision,take baseline x rays and answer any questions.
               We will then see you at 6 weeks from the day of 
the operation.At that time we will most likely obtain 
Flexion/Extension X-rays and often able to place you in a soft 
collar which you will wean out of over 1 week.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit, drainage from your wound,or have any questions.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting.
Treatments Frequency:
Open to air, please call the office if you develop and 
incisional drainage or increased swelling at surgical site. 
 
Followup Instructions:
___